US08614213B2
Step 1: Trans-2-chloro-N-(−4-((S)-1-hydroxyethyl)-cyclohexyl)-5-(trifluoromethyl)benzamide
To a solution of trans-2-chloro-N-(4-formylcyclohexyl)-5-(trifluoromethyl)-benzamide (1.00 g, 3.00 mmol) in THF (50 mL) is added methylmagnesium bromide 2.5 mL of a 3M solution in THF, 7.49 mmol,) and the reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is quenched with water and partitioned between EtOAc and water. The organic phase is washed with water and brine, dried over MgSO4, filtered and the solvent is removed in vacuo. The mixture is used directly in step 2 without further purification.

reactant | trans-2-chloro-N-(4-formylcyclohexyl)-5-(trifluoromethyl)-benzamide | 3.00 mmol, 1.00 g | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)C=O)C=C(C=C1)C(F)(F)F | C15H15ClF3NO2
reactant | methylmagnesium bromide | 2.5 mL | C[Mg]Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Trans-2-chloro-N-(−4-((S)-1-hydroxyethyl)-cyclohexyl)-5-(trifluoromethyl)benzamide | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)[C@H](C)O)C=C(C=C1)C(F)(F)F | C16H19ClF3NO2
